* Problem 1

V1 n1 0 5 ; 5V source
R1 n1 n2 11K ; 11K Ohm Resistor
R2 n2 0 1K ; 1K Ohm Resistor
R3 n1 n3 1e3 ; 1e3 Ohm Resistor
R4 n3 0 1000 ; 1000 Ohm Resistor
R5 n2 n3 1K ; 1K Ohm Resistor

.op ; DC Analysis